US04957928
83.1 g (0.2 mol) of potassium carbonate are added, while stirring, to a solution of 28.0 g (0.2 mol) of 5-fluoro-2-hydroxy-benzaldehyde [prepared according to Y. Suzuki and H. Takahashi, Chem. Pharm. Bull. 31, 1751 (1983)] in 500 ml of N,N-dimethylformamide. 36.3 g (0.2 mol) of 3,3-dimethylacrylic acid ethyl ester are added to the resulting viscous suspension. The reaction mixture is then stirred for 16 hours at 150° and, after cooling to room temperature, concentrated by evaporation in vacuo. Water is added to the resulting solid residue and the aqueous mixture is extracted with diethyl ether. The combined ethereal phases are washed in succession with water, 2N hydrochloric acid, 2N sodium hydroxide solution and again with water, dried over sodium sulfate and concentrated by evaporation in vacuo. The resulting oily residue is chromatographed on 1000 g of silica gel (0.040-0.063 mm) with toluene as eluant, yielding 19.5 g (55% of the theoretical yield) of 2,2-dimethyl-6-fluoro-2H-chromene in the form of a light-yellow oil.

reactant | potassium carbonate | 0.2 mol, 83.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-2-hydroxy-benzaldehyde | 0.2 mol, 28.0 g | FC=1C=CC(=C(C=O)C1)O | C7H5FO2
reactant | 3,3-dimethylacrylic acid ethyl ester | 0.2 mol, 36.3 g | C(C)OC(C=C(C)C)=O | C7H12O2
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-6-fluoro-2H-chromene | CC1(OC2=CC=C(C=C2C=C1)F)C | C11H11FO
